Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Keflex / Avelox / Nifedipine / Pulmicort / doxycycline
 
Attending: ___
 
Chief Complaint:
Atrial fibrillation with RVR
 
Major Surgical or Invasive Procedure:
transesophageal echocardiogram

 
History of Present Illness:
___ year old woman with h/o ___ on ___, etoh cirrhosis 
with hepatopulmonary syndrome and PAH, who presented to ___ on ___ with Enterococcus faecalis 
bacteremia (unknown source). A spine MRI demonstrated abnormal 
signal at L2-L3 and osteo/diskitis could not be excluded. TTE 
and TEE were neg for vegetations. She was treated with 
ampicillin and was discharged to rehab on ___. On ___ or 
___ she spiked a fever to 102 so the ampicillin was increased 
to 2g Q4h (had been Q6h) and gentamicin was added. On ___ 
she experienced dizziness and SOB and was readmitted to ___ where an ekg showed new AFib with RVR in the 150s-160s. 
No associated chest pain, nausea, or presyncope/syncope. She was 
treated with 5mg IV metoprolol, then 10mg IV diltiazem, and was 
then placed on a dilt gtt. After cardiology consultation she was 
given 150mg amiodarone and placed on an amio gtt 1mg/min. Labs 
notable for BNP 720 and trop 0.11 -> 0.10. CXR with mild 
vascular congestion which reportedly improved after 10mg IV 
lasix. She is being transferred here at the request of Dr. 
___. VS prior to transfer were T36.7, HR 115, BP 84/53, 90% on 
2L NC.  
 
Past Medical History:
1. CARDIAC RISK FACTORS: type II DM   
2. CARDIAC HISTORY:  
- Aortic stenosis s/p ___ ___ (26mm)
- Diastolic heart failure   
3. OTHER PAST MEDICAL HISTORY:
- Enterococcus faecalis bacteremia with L2-L3 osteo/diskitis 
___
- Cirrhosis secondary to prior etoh use  
- Esophageal varices (4 cords of non-bleeding grade I varices 
were seen in the lower third of the esophagus on EGD on 
___
- H/o varicel bleed in ___ 
- Fixed hiatal hernia with erosive esophagitis 
- Asthma 
- Pulmonary HTN secondary to hepatopulmonary syndrome, on 
sildenafil (off home O2 since the ___ 
- Pulmonary nodules by chest CT, stable since ___ 
- S/p hemorrhoidectomy
- S/p cataract surgery
- S/p excision of basal cell carcinoma on lip 
- Osteoarthritis of spine and hips      
 
Social History:
___
Family History:
Father had emphysema. 
Mother has alzheimer's and is ___.
 
Physical Exam:
ADMISSION EXAM:
VS: 97.6, 85/59, 100, 18, 97% on 2L NC    
GENERAL: Elderly woman in NAD. Oriented x3 but forgetful. 
Patient appears slightly SOB but states breathing is improved 
and at baseline.    
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple. JVP not elevated.   
CARDIAC: Irregular, ___ holosystolic murmur throughout 
precordium but loudest at RUSB.  
LUNGS: Scant bibasilar rales at bases, no wheezes. 
ABDOMEN: Obese, soft, NTND. Unable to appreciated HSM. 
GU: Foley in place  
Back: No spinal tenderness, no CVA tenderness  
EXTREMITIES: WWP. 1+ pedal pulses. Trace b/l ___ edema, 
especially in dependent areas. TEDs in place.   
SKIN: Ecchymosis under left arm.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 1+ ___ 1+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 1+ ___ 1+
NEURO: CN II-XII intact, strength ___ in UE, ___ in RLE, ___ in 
LLE (limited by back/hip pain), sensation grossly intact, gait 
not assessed 
LINES: PIV in right arm. PICC in left arm.   
.
DISCHARGE EXAM: 
Patient expired
 
Pertinent Results:
Patient expired

ADMISSION LABS:
___ 06:38PM BLOOD WBC-10.8# RBC-3.68* Hgb-11.6*# Hct-35.7* 
MCV-97 MCH-31.6 MCHC-32.6 RDW-16.4* Plt Ct-76*
___ 06:38PM BLOOD ___ PTT-34.8 ___
___ 06:38PM BLOOD Glucose-118* UreaN-10 Creat-0.6 Na-133 
K-4.6 Cl-100 HCO3-23 AnGap-15
___ 06:38PM BLOOD ALT-20 AST-61* AlkPhos-205* TotBili-1.5
___ 06:38PM BLOOD Calcium-7.8* Phos-3.0 Mg-1.9
.
MICROBIOLOGY:
___ MRSA SCREEN MRSA SCREEN-PENDING  
___ BLOOD CULTURE Blood Culture, Routine-PENDING
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
 
___ URINE URINE CULTURE-FINAL {YEAST}  
___ STOOL C. difficile DNA amplification 
assay-FINAL ___ BLOOD CULTURE Blood Culture, 
Routine-PENDING ___ BLOOD CULTURE Blood Culture, 
Routine-PENDING  
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
___ BLOOD CULTURE Blood Culture, Routine-FINAL  
___ BLOOD CULTURE Blood Culture, Routine-FINAL  
___ CATHETER TIP-IV WOUND CULTURE-FINAL  
___ BLOOD CULTURE Blood Culture, Routine-FINAL  
___ BLOOD CULTURE Blood Culture, Routine-FINAL  
___ BLOOD CULTURE Blood Culture, Routine-FINAL  
___ URINE URINE CULTURE-FINAL {YEAST}  
___ STOOL C. difficile DNA amplification 
assay-FINAL ___ URINE URINE CULTURE-FINAL 
{YEAST}  
___ BLOOD CULTURE Blood Culture, Routine-FINAL  
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
***If not otherwise noted, FINAL means negative.
.
IMAGING: 
CXR ___:
Tip of the left PIC line has been minimally withdrawn to the 
origin of the SVC.  Interstitial pulmonary edema has improved.  
Severe cardiomegaly and marked enlargement of pulmonary arteries 
and pulmonary vascular engorgement are chronic findings.  There 
is no appreciable pleural effusion or indication of 
pneumothorax.
 
EKG ___:
Atrial fibrillation with rapid ventricular response rate of 102 
beats per minute. Non-specific ST segment changes in the 
inferolateral leads. Compared to the previous tracing of ___ 
sinus rhythm is no longer appreciated. 

EKG ___:
Sinus rhythm with atrio-ventricular conduction delay. Borderline 
left atrial abnormality. Non-specific ST segment changes 
consistent with possible ischemia. Clinical correlation is 
suggested. Compared to the previous tracing of ___ atrial 
fibrillation is no longer appreciated.  
Rate PR  QRS QT/QTc  P  QRS T 
72   ___ 66 95  -14 

TTE ___:
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). The right 
ventricular free wall is hypertrophied. The right ventricular 
cavity is moderately dilated with mild global free wall 
hypokinesis. An aortic ___ prosthesis is present. The 
prosthetic aortic valve leaflets are thickened. The transaortic 
gradient is much higher than expected for this type of 
prosthesis. A paravalvular aortic valve leak is probably 
present. No masses or vegetations are seen on the aortic valve, 
but cannot be fully excluded due to suboptimal image quality. 
Moderate (2+) aortic regurgitation is seen. [Due to acoustic 
shadowing, the severity of aortic regurgitation may be 
significantly UNDERestimated.] The mitral valve leaflets are 
mildly thickened. No masses or vegetations are seen on the 
mitral valve, but cannot be fully excluded due to suboptimal 
image quality. Mild to moderate (___) mitral regurgitation is 
seen. Moderate to severe [3+] tricuspid regurgitation is seen. 
There is severe pulmonary artery systolic hypertension. There is 
a trivial/physiologic pericardial effusion. 
IMPRESSION: Mild symmetric LVH with normal global and regional 
systolic function. Dilated right ventricle with mild global 
systolic dysfunction. Aortic ___ prosthesis with thickened 
leaflets and high transvalvular gradients. Paravalvular and 
valvular aortic regurgitation, at least moderate in severity. 
Mild to moderate mitral regurgitation. Moderate to severe 
tricuspid regurgitation. Severe pulmonary hypertension. Study 
unable to visualize discrete vegetations, seen earlier today on 
a TEE.
Compared with the prior study (images reviewed) of ___, 
aortic transvalvular gradients have substantially increased. 
Severity of aortic regurgitation appears reasonably similar. 
There is more mitral and aortic regurgitation and estimated 
pulmonary pressures are now significantly higher. 

TEE ___:
No atrial septal defect is seen by 2D or color Doppler. Overall 
left ventricular systolic function is normal (LVEF>55%). Right 
ventricular chamber size and free wall motion are normal. An 
aortic ___ prosthesis is present. The prosthetic aortic 
valve leaflets are thickened and there is a possible small 
vegetation on one of the prosthetic leaflets. There is probable 
diastolic prolapse of the affected prosthetic leaflet, with 
associated anteriorly-directed jet of moderate transvalvular 
regurgitation. Additionally, there is a jet of mild posterior 
paravalvular aortic leak. The mitral valve leaflets are mildly 
thickened. There is small filamentous vegetation on the anterior 
mitral leaflet. Mild (1+) mitral regurgitation is seen. Moderate 
[2+] tricuspid regurgitation is seen. No vegetation/mass is seen 
on the pulmonic valve. There is a trivial/physiologic 
pericardial effusion. 
IMPRESSION: Endocarditis, involving mitral, and probably also 
prosthetic aortic valves, as described above. Moderate to severe 
aortic regurgitation (both valvular and paravalvular). Mild 
mitral regurgitation. Moderate tricuspid regurgitation.

CXR ___:
There is a right-sided PICC line with distal lead tip in the 
distal SVC.  The left-sided PICC line has been removed in the 
interim.  There is a stent projecting over the lower 
mediastinum.  Please correlate with prior surgery.  The lungs 
demonstrate some prominence of the pulmonary interstitial 
markings suggestive of some fluid overload.  There is unchanged 
cardiomegaly.  No pneumothoraces are seen. 

MR ___ & W/O CONTRAST ___:
There has been little change since the study of ___.  Again seen are changes of degenerative disc disease with 
high signal intensity in the L1-2 and L2-3 intervertebral discs 
and adjacent vertebral endplate signal intensity changes that 
may be a result of infection or degenerative disease.  The 
vertebral bodies enhance, but there is only minimal enhancement 
of the discs.  The possibility of infection remains, but all of 
these findings could be produced by degenerative disc disease 
alone. 

EKG ___:
Sinus rhythm. Non-specific anterior T wave changes. Compared to 
tracing #1 no diagnostic interim change. 
Rate PR  QRS QT/QTc  P  QRS T 
71   ___ 71 63 55 

EKG ___:
Sinus rhythm. Low limb lead voltage. Precordial T wave 
abnormalities. Since the previous tracing of ___ no 
significant change. 
Rate PR  QRS QT/QTc  P  QRS T 
70   ___ 56 56 42 

EKG ___:
Probable sinus rhythm. Right inferior axis. Generalized low 
voltage. Septal ST-T wave abnormalities. Since the previous 
tracing the axis is more rightward. QRS voltage is less 
prominent in the precordial leads. ST-T wave abnormalities have 
improved. Clinical correlation is suggested.    
Rate PR  QRS QT/QTc  P  QRS T 
81   156 90  394/430 76 105 54 

EKG ___:
Probable atrial fibrillation with rapid ventricular response. 
Since the previous tracing of ___ atrial fibrillation is new. 
Axis remains vertical with T wave inversions in leads III and 
aVF and in precordial leads through  lead V3. Since the previous 
tracing of ___ atrial fibrillation with rapid ventricular 
response is new. ST-T wave abnormalities are more prominent. 
Axis remains rightward. Consider pulmonary embolism or other 
reasons for axis shift. Clinical correlation is suggested.  
Rate PR QRS QT/QTc  P QRS T 
134  0  98  ___ 

EKG ___:
Sinus rhythm. Low limb lead voltage. There may be very mild J 
point and ST segment elevations in leads I and aVL of uncertain 
significance. Since the previous tracing of ___ atrial 
fibrillation with rapid ventricular response has resolved. The 
axis is less vertical. Precordial T wave abnormalities have 
resolved.   
Rate PR QRS QT/QTc  P  QRS T 
71  164 96  ___  39 

CXR ___:
There is no significant change in previous exam. 
1.  Mild pulmonary edema. 
2.  Left lower lobe consolidation with small pleural effusions. 

TTE ___:
The left atrium is elongated. The estimated right atrial 
pressure is at least 15 mmHg. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%). The right ventricular cavity is mildly dilated with 
mild global free wall hypokinesis. The aortic arch is mildly 
dilated. An aortic ___ prosthesis is present. The 
prosthetic aortic valve leaflets are thickened. The transaortic 
gradient is higher than expected for this type of prosthesis 
(obtained from the ___ view). A paravalvular aortic valve leak 
is probably present. No masses or vegetations are seen on the 
aortic valve, but cannot be fully excluded due to suboptimal 
image quality. Mild (1+) aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. No masses or 
vegetations are seen on the mitral valve, but cannot be fully 
excluded due to suboptimal image quality. Mild to moderate 
(___) mitral regurgitation is seen. The tricuspid valve 
leaflets are mildly thickened. Moderate to severe [3+] tricuspid 
regurgitation is seen. There is severe pulmonary artery systolic 
hypertension. There is a small pericardial effusion. The 
effusion appears circumferential. There are no echocardiographic 
signs of tamponade. 
Compared with the prior study (images reviewed) of ___, the 
amount of pericardial effusion has progressed from trace to 
small. The Core Valve prosthesis is still well seated, albeit 
with slightly higher peak transvalvular gradients (similar mean 
gradient). These gradients were obtained in a different view 
compared to prior study, possibly explaining this difference. 
Paravalvular and valvular aortic regurgitation appear mild 
rather than moderate on the current study (? Underestimated due 
to significant shadowing). Vegetations seen on prior TEE dated 
___ could not be visualized. Other findings are similar.  

EKG ___:
Sinus rhythm. Non-specific intraventricular conduction delay. 
Poor R wave progression. Low QRS voltage in the limb leads. 
Compared to the previous tracing of ___ rapid atrial 
fibrillation has been replaced by sinus rhythm. 
Rate PR  QRS QT/QTc  P  QRS T 
77   ___ 22 69  39 

CXR ___:
As compared to the previous radiograph, the already enlarged 
cardiac silhouette has again substantially increased in size.  
There is also an increase in radiodensity.  Blunting of the 
costophrenic sinus suggests the presence of a pleural effusion.  
Mild fluid overload but no evidence of pneumonia in the 
well-ventilated lung areas.  Relatively substantial atelectasis 
in the retrocardiac lung portions. 
The position of the new valve is unchanged.  The possibility of 
pericardial effusion should be excluded with echocardiography. 
 
Brief Hospital Course:
Patient expired ___

___ with h/o ___ on ___, etoh cirrhosis with 
hepatopulmonary syndrome and PAH, with Enterococcus bacteremia 
and suspected L2-L3 osteo/diskitis p/w new onset AFib with RVR. 
Despite management patient went into shock and died on ___.
. 
# AFib with RVR Leading to Hypotension: Initially we continued 
amiodarone gtt for now; it was started on ___ at 12:30pm at 
1mg/min, and we decreased to 0.5mg/min and then stopped it after 
18 hours.  We then started metoprolol 12.5mg TID. The atrial 
fibrillation was likely due to patient's underlying infection, 
though she does state that she has a history of a "fast heart 
rhythm" suggesting that she may have a h/o AFib. She did have a 
very mildly elevated troponon 0.11 -> 0.10, though this was more 
likely secondary to demand in the setting of RVR rather than an 
ischemic event. CHADS2 was 3 so we started anticoagulation with 
heparin drip though patient has known esophageal varices.  
Patient converted to sinus rhythm on ___ and had been in 
sinus from that time until ___.  After she converted on ___, 
heparin drip was stopped, and patient was continued only on 
aspirin 81mg and subQ heparin for PPX.  On ___, patient went 
into afib with RVR again and was hemodynamically unstable with 
systolic pressures in the ___ and worsening pulmonary edema and 
respiratory distress.  She was electrically cardioverted, and 
her pressures and general respiratory status improved.  She 
remained in sinus rhythm until ___ when she again went into 
afib with RVR with rates into the 130s.  She again developed 
hypotension and worsening pulmonary edema and was given 
ibutilide for attempted cardiversion.  This slowed her rate, but 
she remained in afib.  She was electrically cardioverted a 
second time and started on sotalol.  However, about 6 hours 
after cardiversion (right before the first dose of sotalol) she 
converted back into afib with RVR.  Rivaroxaban had been started 
on ___, but stopped on ___ due to liver disease and INR of 
7.3.  She again became hypotensive with SBPs in the ___ to ___, 
so she was started on phenylephrine and sent to the CCU.  In the 
CCU, patient was amiodarone loaded but went into shock (?septic 
vs cardiogenic) despite resuscitation efforts. She progressed to 
worsening respiratory distress and extremis requiring intubation 
as well as high dose pressors.  Family meeting was held, patient 
was made CMO with decision to withdraw care. Patient was 
extubated and expired.
. 
# Bacteremia/Osteomyelitis/Endocarditis: Unclear initial source 
of Enterococcus bacteremia. Per OSH records, TTE/TEE negative 
for vegetations. However, repeat echo (TTE and TEE) on ___ 
showed mitral valve and aortic prosthetic ___ vegitations. 
 Surgical removal of the ___ was not an option in this 
patient. MRI of the ___ was repeated, which showed ongoing 
possible osteomyelitis/diskitis vs. degenerative disc disease at 
L2-L3.  Patient was treated with ampicillin and gentamiicin, 
continued until patient no longer able to tolerate these 
medications and broadened when patient went into shock (as 
above). 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lidocaine 5% Patch 1 PTCH TD DAILY 
2. Ampicillin 2 g IV Q4H 
3. Ondansetron 4 mg IV Q8H:PRN nausea 
4. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
5. Zolpidem Tartrate 10 mg PO HS:PRN insomnia 
6. Sildenafil 20 mg PO TID 
7. Hydrocodone-Acetaminophen (5mg-500mg) ___ TAB PO Q4H:PRN pain 

8. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN shortness of breath, 
wheezing 
9. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath, wheezing 
10. MetFORMIN (Glucophage) 500 mg PO BID 
11. mometasone *NF* 50 mcg/actuation NU daily 
12. Nystatin Ointment 1 Appl TP BID 
13. Omeprazole 20 mg PO DAILY 
14. Potassium Chloride 20 mEq PO BID Duration: 24 Hours 
15. celecoxib *NF* 200 mg Oral daily 
16. Diazepam 2.5 mg PO BID 
17. Enoxaparin Sodium 80 mg SC DAILY 
18. Gentamicin 80 mg IV Q12H 
19. Magnesium Oxide 400 mg PO BID 
20. Diltiazem Dose is Unknown  IV INFUSION 
gtt 
21. Amiodarone Dose is Unknown  IV INFUSION 
gtt 

 
Discharge Medications:
Patient expired
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Patient expired
 
Discharge Condition:
Patient expired
 
Discharge Instructions:
Patient expired
 
Followup Instructions:
___